US06489344B1
To a suspension of resin-bound (2aminoethyl)(5-nitro(2-pyridyl))amine (30 g, 21 mmol), CH2Cl2 (250 mL) and iPr2NEt (18.3 mL, 105 mmol) at 23° C. was added 2-nitrobenzenesulfonyl chloride (23.3 g, 105 mmol). The resulting mixture was shaken at 23° C. for 6 h, filtered, washed with NMP, H2O and CH2Cl2 and air dried to yield polymer-bound {2-[(5-nitro(2-pyridyl))amino]ethyl}[(2-nitrophenyl)sulfonyl]amine.

reactant | (2aminoethyl)(5-nitro(2-pyridyl))amine | 21 mmol, 30 g | NCCNC1=NC=C(C=C1)[N+](=O)[O-] | C7H10N4O2
reactant | iPr2NEt | 105 mmol, 18.3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-nitrobenzenesulfonyl chloride | 105 mmol, 23.3 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | {2-[(5-nitro(2-pyridyl))amino]ethyl}[(2-nitrophenyl)sulfonyl]amine | [N+](=O)([O-])C=1C=CC(=NC1)NCCNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C13H13N5O6S
